US07737166B2
2-Cyclopropyl-6-(2,3-difluorophenyl)-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile (I-177)
6-Bromo-2-cyclopropyl-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile (I-77) (190 mg, 0.64 mmol), 2,3-difluorophenylboronic acid (407 mg, 2.58 mmol) and tripotassium phosphate (274 mg, 1.29 mmol) were dissolved in 1,4-dioxane (6 ml), then at room temperature, tetrakis(triphenylphosphine)palladium(0) (149 mg, 0.13 mmol) was added. The suspension was stirred under nitrogen atmosphere at 95° C. for 86 hours. After cooling to room temperature, the solution was fractionated with ethyl acetate and aqueous saturated ammonium chloride solution. The aqueous layer was extracted twice with ethyl acetate. The organic layers were combined, washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated away, and the resulting residue was purified by middle-pressure liquid chromatography (eluent, hexane:ethyl acetate=9:1) to obtain the entitled compound (111 mg, 53%) as a white solid.

reactant | 6-Bromo-2-cyclopropyl-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile | 0.64 mmol, 190 mg | BrC=1C(=C2C(N=C(O2)C2CC2)=C(C1C)C#N)F | C12H8BrFN2O
reactant | 2,3-difluorophenylboronic acid | 2.58 mmol, 407 mg | FC1=C(C=CC=C1F)B(O)O | C6H5BF2O2
reactant | tripotassium phosphate | 1.29 mmol, 274 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | 1,4-dioxane | 6 ml | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.13 mmol, 149 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Cyclopropyl-6-(2,3-difluorophenyl)-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile | 111 mg, 53% | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2F)C2=C(C(=CC=C2)F)F)C)C#N | C18H11F3N2O
